US07897766B2
Benzo[b]thiophene-3-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 1-benzothiophene-3-carboxylic acid (Maybridge) according to methods A and C; yield 60 mg, 0.17 mmol (56%): 1H NMR (300 MHz, methanol-d4) δ 2.10-2.30 (m, 5H), 2.48 (s, 2H), 3.50 (d, J=13 Hz, 2H), 3.56 (s, 2H), 3.83 (d, J=13 Hz, 2H), 4.33 (s, 1H), 7.36-7.49 (m, 2H), 7.91-7.96 (m, 1H), 8.28-8.34 (m, 2H); MS (DCI/NH3) m/z 313 (M+H)+; Anal. C18H20N2OS.HCl.0.17H2O: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 1-benzothiophene-3-carboxylic acid | S1C=C(C2=C1C=CC=C2)C(=O)O | C9H6O2S
reactant | NH3 | N | H3N
product | Benzo[b]thiophene-3-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C=2C3=C(SC2)C=CC=C3 | InChI=1S/C18H20N2OS.ClH/c21-18(15-10-22-16-4-2-1-3-14(15)16)19-17-12-5-11-6-13(17)9-20(7-11)8-12;/h1-4,10-13,17H,5-9H2,(H,19,21);1H/t11?,12?,13?,17-;
